US06962923B2
N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-N-(methylsulfonyl)methanesulfonamide
Methanesulfonyl chloride (20 ul) was added at room temperature under an atmosphere of nitrogen to a mixture of 4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-ylamine (50 mg) (Preparation 48), dimethylaminopyridine (16 mg) in anhydrous pyridine (2.4 ml) and the reaction was stirred for 24 h. The mixture was concentrated under reduced pressure, then a saturated solution of ammonium chloride (6 ml), ethyl acetate (6 ml), and brine (6 ml) were sequentially added to the residue. The aqueous phase was extracted with ethyl acetate (2×8 ml) and the combined organic fractions were washed with brine (10 ml), dried over sodium sulfate and concentrated under reduced pressure. The oil was purified by preparative TLC (silica) eluted with dichloromethane:methanol (95:5) to yield the title compound as a pale yellow oil (71 mg).

reactant | Methanesulfonyl chloride | 20 ul | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-ylamine | 50 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2N)C)OCCOC2=NC=C(C=N2)Cl | C17H16ClN5O4
reactant | dimethylaminopyridine | 16 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-N-(methylsulfonyl)methanesulfonamide | 71 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2N(S(=O)(=O)C)S(=O)(=O)C)C)OCCOC2=NC=C(C=N2)Cl | C19H20ClN5O8S2
